US08202873B2
4-(1-Cyclopropyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
Dissolve 3′-(4-Fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.157 g, 0.608 mmol) in DCE (5 mL). Add 1-cyclopropyl-1H-pyrazole-4-carbaldehyde (0.354 g, 2.60 mmol) followed by sodium triacetoxyborohydride (0.193 g, 0.912 mmol) and stir at room temperature for 18 hr. Purify via SCX chromatography, followed by silica gel chromatography (eluting with 100:0 to 0:100 hexanes:ethyl acetate then 10:90 methanol:ethyl acetate), to give the free base of the title compound (16 mg, 7%). Dissolve this free base (0.014 g, 0.038 mmol) in methanol and add a solution of ammonium chloride (0.002 g, 0.038 mmol) in a minimal volume of methanol. Shake for 18 hr. at ambient temperature and concentrate to give the title compound (15 mg, 100%). MS (ES): m/z=379 [M+H]+.

reactant | 3′-(4-Fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.608 mmol, 0.157 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1 | C14H15FN4
reactant | 1-cyclopropyl-1H-pyrazole-4-carbaldehyde | 2.60 mmol, 0.354 g | C1(CC1)N1N=CC(=C1)C=O | C7H8N2O
reactant | sodium triacetoxyborohydride | 0.912 mmol, 0.193 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 4-(1-Cyclopropyl-1H-pyrazol-4-ylmethyl)-3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 16 mg, 7% | Cl.C1(CC1)N1N=CC(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)F | InChI=1S/C21H23FN6.ClH/c22-18-3-1-17(2-4-18)20-21(24-8-7-23-20)27-11-9-26(10-12-27)14-16-13-25-28(15-16)19-5-6-19;/h1-4,7-8,13,15,19H,5-6,9-12,14H2;1H
